### PR TITLE
[Merged by Bors] - chore: reduce `open Fin.NatCast`

### PR DESCRIPTION
**Pull request by Komyyy**
Removing the type cast to `Fin` allowed me to golf `IsPathConnected.exists_path_through_family`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Connected/PathConnected.lean [hunk 1]
```diff
@@ -424,65 +424,34 @@ theorem IsPathConnected.preimage_coe {U W : Set X} (hW : IsPathConnected W) (hWU
...
-  rintro ⟨i, hi⟩
-  suffices p ⟨i, hi⟩ = p' i by convert hγ.1 i (Nat.le_of_lt_succ hi)
-  rw [← hpp' i hi]
-  suffices i = i % n.succ by congr
-  rw [Nat.mod_eq_of_lt hi]
-
-open Fin.NatCast in -- TODO: refactor to avoid needing this.
+    ∃ γ : Path (p 0) (p (last n)), range γ ⊆ s ∧ ∀ i, p i ∈ range γ := by
+  cases p using snocCases
+  case h p x =>
```
Comment (eric-wieser) [inline Mathlib/Topology/Connected/PathConnected.lean]: May as well use `with` on the previous line.

File: Mathlib/Topology/Connected/PathConnected.lean [hunk 2]
```diff
@@ -424,65 +424,34 @@ theorem IsPathConnected.preimage_coe {U W : Set X} (hW : IsPathConnected W) (hWU
...
-  rintro ⟨i, hi⟩
-  suffices p ⟨i, hi⟩ = p' i by convert hγ.1 i (Nat.le_of_lt_succ hi)
-  rw [← hpp' i hi]
-  suffices i = i % n.succ by congr
-  rw [Nat.mod_eq_of_lt hi]
-
-open Fin.NatCast in -- TODO: refactor to avoid needing this.
+    ∃ γ : Path (p 0) (p (last n)), range γ ⊆ s ∧ ∀ i, p i ∈ range γ := by
+  cases p using snocCases with
+  | h p x =>
```
Comment (eric-wieser) [inline Mathlib/Topology/Connected/PathConnected.lean]:
```suggestion
  cases p using snocCases with | _ p x => ?_
```
to avoid needing any indentation

File: Mathlib/Topology/Connected/PathConnected.lean [hunk 3]
```diff
@@ -424,65 +424,34 @@ theorem IsPathConnected.preimage_coe {U W : Set X} (hW : IsPathConnected W) (hWU
...
+    simp only [snoc_zero, Path.cast_coe]
+    use Path.refl x
+    simp [hx]
+  | @h n p y hp₂ =>
+    simp only [forall_fin_succ', snoc_castSucc, snoc_last, snoc_apply_zero, Path.cast_coe] at hp ⊢
+    obtain ⟨hp, hy⟩ := hp
+    specialize hp₂ y hp hy
+    obtain ⟨γ₀, hγ₀s, hγ₀p⟩ := hp₂
+    obtain ⟨γ₁, hγ₁⟩ := h.joinedIn y hy x hx
+    rewrite [← range_subset_iff] at hγ₁
```
Comment (eric-wieser) [inline Mathlib/Topology/Connected/PathConnected.lean]: Any reason for `rewrite` and not `rw`?

Comment (Komyyy) [reply Mathlib/Topology/Connected/PathConnected.lean]: `rw` tries `with_reducible rfl` but `rewrite` doesn't, so I used `rewrite` for more light proofs on a whim, but I noticed it’s not worth the effort distinguishing them, so I reverted to `rw`.

File: Mathlib/Topology/Path.lean [hunk 4]
```diff
@@ -399,6 +407,15 @@ theorem extend_cast {x' y'} (γ : Path x y) (hx : x' = x) (hy : y' = y) :
 theorem cast_coe (γ : Path x y) {x' y'} (hx : x' = x) (hy : y' = y) : (γ.cast hx hy : I → X) = γ :=
   rfl
 
+lemma bijective_cast {x' y' : X} (hx : x' = x) (hy : y' = y) : Bijective (Path.cast · hx hy) := by
+  subst_vars; exact bijective_id
+
+@[congr]
+lemma exists_congr {x₁ x₂ y₁ y₂ : X} {p : Path x₁ y₁ → Prop}
+    (hx : x₁ = x₂) (hy : y₁ = y₂) :
+    Exists p ↔ ∃ (γ : Path x₂ y₂), p (γ.cast hx hy) :=
```
Comment (eric-wieser) [inline Mathlib/Topology/Path.lean]: I'd suggest eta-expanding the LHS, just to make this statement a little more symmetric.

**Review by eric-wieser — APPROVED** [review]
bors d+

I think probably the PR description should mention this is also a substantial golf :)
